US04483867
Preparation of 1-(ethyloxycarbonyloxy)ethyl trans-4-aminomethylcyclohexanecarboxylate hydrochloride (Method A)
A solution of trans-4-(tert.-butoxycarbonylaminomethyl) cyclohexanecarboxylic acid (25.7 g; 0.1 mol) and tetrabutylammonium hydrogen sulfate (34 g; 0.1 mol) in 2N sodium hydroxide (100 ml) was extracted with ethanolfree chloroform. The chloroform solution was dried and evaporated to give 50 g. This was dissolved in trichloroethylene (200 ml) and ethyl (1-chloroethyl) carbonate (16.8 g; 0.11 mol) was added. After refluxing for 3 h the solution was washed with dilute sulphuric acid, sodium bicarbonate solution and water. After evaporation of chloroform the residue was dissolved in ethyl acetate cooled to 0° C. To this solution a cold solution of hydrochloric acid in ethyl acetate was added. After 3 h at ice bath temperature the solvent was evaporated to give 23 g. This was dissolved in isopropyl alcohol and precipitated with diisopropyl ether. Yield 15 g (49%), m.p. 139° C.

reactant | trans-4-(tert.-butoxycarbonylaminomethyl) cyclohexanecarboxylic acid | 0.1 mol, 25.7 g | C(C)(C)(C)OC(=O)NC[C@@H]1CC[C@H](CC1)C(=O)O | C13H23NO4
reactant | ethyl (1-chloroethyl) carbonate | 0.11 mol, 16.8 g | C(OCC)(OC(C)Cl)=O | C5H9ClO3
catalyst | tetrabutylammonium hydrogen sulfate | 0.1 mol, 34 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | sodium hydroxide | 2N, 100 ml | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | trichloroethylene | 200 ml | ClC=C(Cl)Cl | C2HCl3
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 1-(ethyloxycarbonyloxy)ethyl trans-4-aminomethylcyclohexanecarboxylate hydrochloride | Cl.NC[C@@H]1CC[C@H](CC1)C(=O)OC(C)OC(=O)OCC | InChI=1S/C13H23NO5.ClH/c1-3-17-13(16)19-9(2)18-12(15)11-6-4-10(8-14)5-7-11;/h9-11H,3-8,14H2,1-2H3;1H/t9?,10-,11-;
